US07531532B2
4-(4-Amino-2-chlorophenoxy)-6-[(pyrrolidin-1-yl)carbonylamino]pyrimidine
4-Amino-6-(2-chloro-4-nitropenoxy)pyrimidine (230 mg) was dissolved in tetrahydrofuran (5 ml) under a nitrogen atmosphere, and then triethylamine (0.24 ml) and phenyl chloroformate (0.216 ml) were added dropwise thereto while cooling in an ice bath, followed by stirring at room temperature for 1 hr. Pyrrolidine (0.507 ml) was added thereto, followed by stirring for another 1 hr. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of ammonium chloride. The organic layer was washed with a saturated aqueous solution of ammonium chloride, water, a saturated aqueous solution of sodium hydrogencarbonate and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, to which ethanol (20 ml)-water (5 ml) was added to dissolve, and then electrolytic iron powder (400 mg) and ammonium chloride (800 mg) were added thereto, followed by heating under reflux for 2 hr. The reaction mixture was cooled down to room temperature, and filtered through celite to remove an insoluble portion, which was washed with ethyl acetate-tetrahydrofuran (1:1) and water. The organic layer of the filtrate was separated, washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:4, then ethyl acetate) to provide the titled compound (145.5 mg, 51%) as white powder.

reactant | 4-Amino-6-(2-chloro-4-nitropenoxy)pyrimidine | 230 mg | NC1=NC=NC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C10H7ClN4O3
reactant | phenyl chloroformate | 0.216 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Pyrrolidine | 0.507 ml | N1CCCC1 | C4H9N
reactant | ammonium chloride | 800 mg | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | iron | 400 mg | [Fe] | Fe
solvent | water | 5 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | triethylamine | 0.24 ml | C(C)N(CC)CC | C6H15N
product | 4-(4-Amino-2-chlorophenoxy)-6-[(pyrrolidin-1-yl)carbonylamino]pyrimidine | 145.5 mg, 51% | NC1=CC(=C(OC2=NC=NC(=C2)NC(=O)N2CCCC2)C=C1)Cl | C15H16ClN5O2
